US05015777
Preparation of Benzoylstearoylmethane
Acetophenone (30 grams; 0.25 mol), methylstearate (298 grams; 1.0 mol), xylene (300 ml) and sodium methoxide (17.3 grams; 0.3 mol) were placed into a four-necked, round bottom one liter flask equipped a in Example 1. The mixture was heated with stirring to 135°-140° C. and maintained there for 6 hours under a blanket of nitrogen. The procedure set forth in Example 1 was used to recover the desired product, benzoylstearoylmethane (43 grams; 45 weight percent yield) having a purity of 95%.

reactant | Acetophenone | 0.25 mol, 30 grams | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | methylstearate | 1.0 mol, 298 grams | COC(CCCCCCCCCCCCCCCCC)=O | C19H38O2
reactant | sodium methoxide | 0.3 mol, 17.3 grams | C[O-].[Na+]
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Benzoylstearoylmethane | C(C1=CC=CC=C1)(=O)CCCCCCCCCCCCCCCCCC(=O)C | C26H42O2
